US08012976B2
(E)-4-(4-(diethoxymethyl)benzylideneamino)isobenzofuran-1(3H)-one
4-Aminoisobenzofuran-1(3H)-one (600 mg, 4 mmol), 4-(ethoxy(methoxy)methyl)benzaldehyde (1.6 g, 8 mmol) and 1 g of magnesium sulfate were added into 40 mL of dichloromethane and stirred under reflux overnight, then the mixture was evaporated under reduced pressure and the residue was dried in vacuum to give 600 mg of crude product (E)-4-(4-(diethoxymethyl)benzylideneamino)isobenzofuran-1(3H)-one which without further purification was used in next step.

reactant | 4-Aminoisobenzofuran-1(3H)-one | 4 mmol, 600 mg | NC1=C2COC(C2=CC=C1)=O | C8H7NO2
reactant | 4-(ethoxy(methoxy)methyl)benzaldehyde | 8 mmol, 1.6 g | C(C)OC(C1=CC=C(C=O)C=C1)OC | C11H14O3
reactant | magnesium sulfate | 1 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (E)-4-(4-(diethoxymethyl)benzylideneamino)isobenzofuran-1(3H)-one | 600 mg | C(C)OC(C1=CC=C(\C=N\C2=C3COC(C3=CC=C2)=O)C=C1)OCC | C20H21NO4
